US07067517B2
Methyl-phenyl-carbamic acid 3-(2-fluoro-phenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3-(2-fluorophenyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (97%, oil).

reactant | 1-hydroxy-3-(2-fluorophenyl)pyrazole | ON1N=C(C=C1)C1=C(C=CC=C1)F | C9H7FN2O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3-(2-fluoro-phenyl)-pyrazol-1-yl ester | FC1=C(C=CC=C1)C1=NN(C=C1)OC(N(C1=CC=CC=C1)C)=O | C17H14FN3O2
